* Z:\home\anagix\work\YSS_PMOS\a_class_amplifier\amp_haruna.asc
M13 N010 N009 N004 N001 YSS_PMOS l=10u w=100u m=270
R3 N001 N009 10k
R4 N009 0 20k
R5 N002 N004 30
R6 N001 N002 3k
R7 N010 0 4.5k
M14 0 N010 N005 N001 YSS_PMOS l=10u w=100u m=18
R8 N001 N005 10k
M15 N006 N003 N001 N001 YSS_PMOS l=10u w=100u m=450
M16 N003 N003 N001 N001 YSS_PMOS l=10u w=100u m=18
R13 N003 0 1k
M17 0 N005 N006 N001 YSS_PMOS l=10u w=100u m=450
C1 N001 N002 {100µ}
C2 N009 N008 {100µ}
C3 N007 N006 {1000µ}
V1 N001 0 10
V2 N008 0 SINE 0 0.11 1k AC 1
R1 N007 0 8
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.mos
* .step param r1k list  100k 200k
.include models/pmos
.tran 10m
.step param l20 10u 60u 10u
.backanno
.end
